US07807672B2
To a solution of 2-benzyloxy-5-nitro-biphenyl (81 mg, 0.27 mmol)) in 5 mL of methanol was added catalytic amount of 5% palladium on carbon under H2. The mixture was stirred under H2 for 3 hrs and filtered through celite. The filtrate was concentrated to give 2-hydroxy-5-nitro-biphenyl (38 mg).

reactant | 2-benzyloxy-5-nitro-biphenyl | 0.27 mmol, 81 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H15NO3
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-hydroxy-5-nitro-biphenyl | 38 mg | OC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H9NO3
